US08076516B2
Grignard coupling of butylmagnesium chloride with 1-(3-bromophenyl)ethanone followed by flash chromatography (0-25% ethyl acetate/hexanes gradient), gave 2-(3-bromophenyl)hexan-2-ol as a yellow oil. Yield (0.99 g, 51%): 1H NMR (400 MHz, CDCl3) δ 7.59 (t, J=2.0 Hz, 1H), 7.30-7.37 (m, 2H), 7.19 (t, J=8.0 Hz, 1H), 1.70-1.84 (m, 2H), 1.52 (s, 3H), 1.64 (brs, 1H), 1.18-1.30 (m, 3H), 1.02-1.14 (m, 1H), 0.84 (t, J=7.2 Hz, 3H).

reactant | butylmagnesium chloride | C(CCC)[Mg]Cl
reactant | 1-(3-bromophenyl)ethanone | BrC=1C=C(C=CC1)C(C)=O | C8H7BrO
product | 2-(3-bromophenyl)hexan-2-ol | BrC=1C=C(C=CC1)C(C)(CCCC)O | C12H17BrO
